US08278343B2
Preparation 64: 3-(3-Chloro-4-fluoro-phenoxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 3-chloro-4-fluoro-phenol and 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 12) to afford the racemate as a white solid (153 mg, 69%) ES m/z 424 [MH]+

reactant | 3-chloro-4-fluoro-phenol | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)CI | C15H17FINO3
product | 3-(3-Chloro-4-fluoro-phenoxymethyl)-1-(4-fluoro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=CC(=C(C=C1)F)Cl | C21H20ClF2NO4
